US06313312B1
3-Hexyl-6-[3-(1H-imidazol-2-yl)phenyl]-6-methyl-3-azabicyclo[3.1.0]hexane
To a solution of 3-hexyl-6-[3-(1H-imidazol-2-yl)phenyl]-6-methyl-3-azabicyclo[3.1.0]hexan-2-one (Preparation 44, 190 mg, 0.56 mmol) in tetrahydrofluran (5 ml) at room temperature was added lithium aluminium hydride (1.1 ml, 1.12 nimol, 1.0 M in THF) dropwise over a few minutes. The mixture was heated under reflux for 1 hour and then cooled to 0° C. 2N sodium hydroxide (1.0 ml) was added cautiously followed by ethyl acetate (10 ml) and the mixture was stirred rapidly for 30 minutes, then filtered through celite. The filtrate was concentrated in vacuo and the residue was purified by silica column chromatography eluting with ethyl acetate:methanol:ammnonia solution (0.880) (90:10:1) to afford the title compound (140 mg, 74%) as a white solid.

reactant | 3-hexyl-6-[3-(1H-imidazol-2-yl)phenyl]-6-methyl-3-azabicyclo[3.1.0]hexan-2-one | 0.56 mmol, 190 mg | C(CCCCC)N1C(C2C(C2C1)(C)C1=CC(=CC=C1)C=1NC=CN1)=O | C21H27N3O
reactant | lithium aluminium hydride | 1.0 M, 1.1 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2N, 1.0 ml | [OH-].[Na+]
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-Hexyl-6-[3-(1H-imidazol-2-yl)phenyl]-6-methyl-3-azabicyclo[3.1.0]hexane | 140 mg, 74% | C(CCCCC)N1CC2C(C2C1)(C)C1=CC(=CC=C1)C=1NC=CN1 | C21H29N3
